US08071807B2
Step 2: [3-(4-Bromo-2-formyl-phenoxy)-4-methoxy-phenyl]-acetic acid ethyl ester
(3-Hydroxy-4-methoxy-phenyl)-acetic acid ethyl ester (2.0 g, 9.5 mmol), 5-bromo-2-fluorobenzaldehyde (2.0 g, 9.5 mmol), and potassium carbonate (2.0 g, 14.3 mmol) were combined in 1,4-dioxane and heated to 90° C. overnight. After work-up, the crude material was purified by silica gel chromatography (0-25% EtOAc in hexanes) to give the desired product (1.8 g).

reactant | (3-Hydroxy-4-methoxy-phenyl)-acetic acid ethyl ester | 9.5 mmol, 2.0 g | C(C)OC(CC1=CC(=C(C=C1)OC)O)=O | C11H14O4
reactant | 5-bromo-2-fluorobenzaldehyde | 9.5 mmol, 2.0 g | BrC=1C=CC(=C(C=O)C1)F | C7H4BrFO
reactant | potassium carbonate | 14.3 mmol, 2.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | [3-(4-Bromo-2-formyl-phenoxy)-4-methoxy-phenyl]-acetic acid ethyl ester | 1.8 g | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)Br)C=O)=O | C18H17BrO5
